US06147088
Step 14D 2-{2-[7-chloro-6-(3-cyclopropylureido)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl ]-ethyl}-piperidine-1-carboxylic acid benzyl ester
To a solution of 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl]-ethyl }-piperidine-1-carboxylic acid benzyl ester (23 mg in 1.0 mL methylene chloride) at 0° C. was added 0.01 mL pyridine followed by phosgene (0.03 mL of a 1.93M solution in toluene) and the mixture allowed to stir at 0° C. for 1 hour. At this time 0.02 mL of cyclopropylamine was added via syringe and the reaction mixture warmed to room temperature. After 4 hours, the mixture was diluted with ethyl acetate and washed sequentially with 10% aqueous sodium bisulfate, water and brine. The organic portion was dried over magnesium sulfate then concentrated in vacuo. Purification of the crude material by flash chromatography on silica gel (chloroform:methanol, 95:5) gave the title compound (18 mg).

reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl]-ethyl }-piperidine-1-carboxylic acid benzyl ester | 1.0 mL, 23 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCSC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C32H34ClN3O3S
reactant | pyridine | 0.01 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | cyclopropylamine | 0.02 mL | C1(CC1)N | C3H7N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{2-[7-chloro-6-(3-cyclopropylureido)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl ]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 18 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCSC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1CC1)Cl)=O)C1=CC(=CC(=C1)C)C | C36H39ClN4O4S
